US05344932
By allowing 3-iodo-4-hydroxypyrrolo[2,3-d]pyrimidine to react with dimethyl N-(4-ethynylbenzoyl)-L-glutamate in the manner described in Example 2, there is obtained dimethyl N-[4-(4-hydroxypyrrolo[2,3-d]pyrimidin-3-ylethynyl)benzoyl]-L-glutamate which is purified by chromatography over silica, m.p. 160 ° C. (dec.). 1NMR (d6 -DMSO)δ1.98-2.15 (m, 2H), 2.45 (t, J=7.5 Hz, 2H) 3.57 (s, 3H), 3.64 (s, 3H), 4.40-4.45 (m, 1H), 7.51 ((d, J=2.5 Hz, 1H), 7.55 (d, J=8.2 Hz, 2 H), 7.87 (s, 1H), 7.90 (d, J=8.2 Hz, 1 H), 11.97 ((d, J=3.7 Hz, 1 H), 12.31 (s, 1H).

reactant | 3-iodo-4-hydroxypyrrolo[2,3-d]pyrimidine | IN1C=NC=2C(=C1O)C=CN2 | C6H4IN3O
reactant | dimethyl N-(4-ethynylbenzoyl)-L-glutamate | C(#C)C1=CC=C(C(=O)N[C@@H](CCC(=O)OC)C(=O)OC)C=C1 | C16H17NO5
product | dimethyl N-[4-(4-hydroxypyrrolo[2,3-d]pyrimidin-3-ylethynyl)benzoyl]-L-glutamate | OC1=C2C(N=CN1C#CC1=CC=C(C(=O)N[C@@H](CCC(=O)OC)C(=O)OC)C=C1)=NC=C2 | C22H20N4O6
